US03950333
Sulphuryl chloride (286 g.) was added dropwise to a solution of ethyl 3-oxopentanoate (300 g.) in chloroform (250 ml.) at 10°-15°. Following addition the mixture was stirred overnight at room temperature, heated under reflux for 0.5 hour and cooled. After washing with water, sodium bicarbonate and water, the solution was dried (sodium sulphate), concentrated, and fractionated to yield ethyl 2-chloro-3-oxopentanoate, b.p. 94°-96°/14 mm.

reactant | Sulphuryl chloride | 286 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ethyl 3-oxopentanoate | 300 g | O=C(CC(=O)OCC)CC | C7H12O3
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-chloro-3-oxopentanoate | ClC(C(=O)OCC)C(CC)=O | C7H11ClO3
